* source NET_DFF_TG
M_M38         N47473 CLK N48007 N48601 MbreakP  
+ L=.18u  
+ W=.72u         
V_V19         N47383 0 1.8Vdc
M_M27         N47627 N47473 N47631 N47631 MbreakP  
+ L=.18u  
+ W=1.8u         
M_M35         OUTQBAR OUTQ N48241 N48241 MbreakP  
+ L=.18u  
+ W=1.8u         
V_V27         N47875 0 1.8Vdc
M_M25         N47473 N47351 N47477 N47477 MbreakP  
+ L=.18u  
+ W=1.8u         
V_V24         N48087 0 1.8Vdc
M_M28         N47627 N47473 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M37         N48007 CLKBAR N47473 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M34         OUTQ N48007 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
V_V20         N47477 0 1.8Vdc
C_C4         0 OUTQ  20p  TC=0,0 
M_M23         N47337 CLK N47351 0 Mbreakn  
+ L=.18u  
+ W=.72u         
M_M26         N47473 N47351 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M41         CLKBAR CLK N48863 N48863 MbreakP  
+ L=.18u  
+ W=.72u         
V_V25         N48241 0 1.8Vdc
V_V22         N47863 0 1.8Vdc
M_M39         N48007 CLK OUTQBAR 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M42         CLKBAR CLK 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M36         OUTQBAR OUTQ 0 0 Mbreakn  
+ L=.18u  
+ W=.72u         
V_V26         N48601 0 1.8Vdc
V_V30         N47337 0  
+PULSE 0 1.8V 0 1n 1n 3u 6u
V_V29         CLK 0  
+PULSE 0 1.8V 0 1n 1n 2u 4u
M_M40         OUTQBAR CLKBAR N48007 N47875 MbreakP  
+ L=.18u  
+ W=.72u         
V_V21         N47631 0 1.8Vdc
V_V28         N48863 0 1.8Vdc
M_M30         N47351 CLK N47627 N47863 MbreakP  
+ L=.18u  
+ W=.72u         
M_M24         N47351 CLKBAR N47337 N47383 Mbreakp  
+ L=.18u  
+ W=.72u         
M_M33         OUTQ N48007 N48087 N48087 MbreakP  
+ L=.18u  
+ W=1.8u         
M_M29         N47627 CLKBAR N47351 0 MbreakN  
+ L=.18u  
+ W=.72u  